US06833378B2
2-Chloro-N-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-acetamide
The title compound was prepared by acylation of 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine with chloroacetyl chloride, NEt3 in THF at room temperature. A tan solid was isolated, mp. 79-82° C. Anal. For C22H30ClN3O2 calc. C, 65.41; H, 7.49; N, 10.40; found: C, 65.56; H, 7.62; N, 10.98.

reactant | 4-(1-ethyl-propoxy)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3-diamine | C(C)C(CC)OC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H29N3O
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | NEt3 | CCN(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 2-Chloro-N-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-acetamide | ClCC(=O)NC=1C(=NC(=CC1OC(CC)CC)C)NC1=C(C=C(C=C1C)C)C | C22H30ClN3O2
